US05376673
A. 5-Chloro-3-hydroxy-2-(2-bromoethyl)-1-oxoisoindolin
The compound was prepared as described in example 1A, starting from 2.5 g (0.013 mole) of 4-chloro-2-carboxybenzaldehyde (I1 farmaco, Ed. Sci 31, 691, 1976) and 2.76 g (0.013 mole) of 2-bromoethylamine hydrobromide. 1.05 g of the title product were obtained; mp=164°-168 ° C. (n-hexane).

reactant | 4-chloro-2-carboxybenzaldehyde | 0.013 mole, 2.5 g | ClC1=CC(=C(C=O)C=C1)C(=O)O | C8H5ClO3
reactant | 2-bromoethylamine hydrobromide | 0.013 mole, 2.76 g | Br.BrCCN
product | 5-Chloro-3-hydroxy-2-(2-bromoethyl)-1-oxoisoindolin | 1.05 g | ClC=1C=C2C(N(C(C2=CC1)=O)CCBr)O | C10H9BrClNO2
